US06716863B2
(i) 3-{1-[3-(3-benzyloxyphenyl)propyl]-1H-imidazol-2-yl}-1,2-propanediol
Using benzyl 3-(3-iodopropyl)phenyl ether (1.98 g), 2-(2,3-dihydroxypropyl)imidazole (1.0 g) and 65% oily sodium hydride (0.259 g), the same reaction as Reference Example 11-(iv) was carried out to yield the titled compound (1.31 g) as a colorless oily substance.

reactant | benzyl 3-(3-iodopropyl)phenyl ether | 1.98 g | ICCCC=1C=C(C=CC1)OCC1=CC=CC=C1 | C16H17IO
reactant | 2-(2,3-dihydroxypropyl)imidazole | 1.0 g | OC(CC=1NC=CN1)CO | C6H10N2O2
reactant | sodium hydride | 0.259 g | [H-].[Na+]
product | 3-{1-[3-(3-benzyloxyphenyl)propyl]-1H-imidazol-2-yl}-1,2-propanediol | 1.31 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)CCCN1C(=NC=C1)CC(CO)O | C22H26N2O3
